US08871790B2
Compound 118.8. 3-(4-Methoxybenzyl)-6-(4-methoxyphenyl)-3-azabicyclo[3.1.0]hexane
A mixture of 3-(4-methoxybenzyl)-6-(4-methoxyphenyl)-3-azabicyclo[3.1.0]hexane-2,4-dione (0.86 g, 2.6 mmol), NaBH4 (0.296 g, 7.8 mmol) and BF3 etherate (1.0 mL, 7.8 mmol) in THF was heated under reflux overnight. After cooling to 0° C., a solution of piperazine (2 g) in H2O (20 mL) was added. The mixture was stirred at room temperature for 2 h, poured into H2O and extracted with EtOAc (3×). The combined organic extract was dried over MgSO4, filtered and then concentrated. The residue was purified by flash column chromatography with EtOAc in hexane (10%, 20%, then 30%) to give a white solid. To a suspension of the solid in THF (20 mL) and H2O (10 mL) was added piperazine (3 g). After heating the mixture under reflux overnight, it was poured into brine and extracted with EtOAc (3×). The combined organic extract was dried over MgSO4, filtered and concentrated to give the title compound as white solid (0.51 g, 65% yield). MS [M+H]+: 310.

reactant | 3-(4-methoxybenzyl)-6-(4-methoxyphenyl)-3-azabicyclo[3.1.0]hexane-2,4-dione | 2.6 mmol, 0.86 g | COC1=CC=C(CN2C(C3C(C3C2=O)C2=CC=C(C=C2)OC)=O)C=C1 | C20H19NO4
reactant | NaBH4 | 7.8 mmol, 0.296 g | [BH4-].[Na+]
reactant | BF3 | 7.8 mmol, 1.0 mL | B(F)(F)F | BF3
reactant | piperazine | 2 g | N1CCNCC1 | C4H10N2
reactant | piperazine | 3 g | N1CCNCC1 | C4H10N2
solvent | THF | C1CCOC1 | C4H8O
solvent | H2O | 20 mL | O | H2O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | brine | [Cl-].[Na+].O
solvent | H2O | 10 mL | O | H2O
product | 3-(4-Methoxybenzyl)-6-(4-methoxyphenyl)-3-azabicyclo[3.1.0]hexane | 0.51 g, 65% yield | COC1=CC=C(CN2CC3C(C3C2)C2=CC=C(C=C2)OC)C=C1 | C20H23NO2
